US07560558B2
Compound 13: 6,7-Dimethoxy-4-(4-methyl-2-nitrophenoxy)quinoline
4-Chloro-6,7-dimethoxyquinoline (1.15 g) and 4-methyl-2-nitrophenol (1.52 g) were suspended in o-dichlorobenzene (7 ml), and the suspension was stirred at 180° C. for 23 hr. The reaction solution was cooled to room temperature. Water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was then washed with water and saturated brine and was dried over anhydrous sodium sulfate. The solvent was removed therefrom by distillation under the reduced pressure, and the residue was purified by column chromatography using acetone-chloroform to give the title compound (480 mg, yield 27%).

reactant | 4-Chloro-6,7-dimethoxyquinoline | 1.15 g | ClC1=CC=NC2=CC(=C(C=C12)OC)OC | C11H10ClNO2
reactant | 4-methyl-2-nitrophenol | 1.52 g | CC1=CC(=C(C=C1)O)[N+](=O)[O-] | C7H7NO3
reactant | Water | O | H2O
solvent | o-dichlorobenzene | 7 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 6,7-Dimethoxy-4-(4-methyl-2-nitrophenoxy)quinoline | 480 mg, yield 27% | COC=1C=C2C(=CC=NC2=CC1OC)OC1=C(C=C(C=C1)C)[N+](=O)[O-] | C18H16N2O5
